US04107308
6,8-Dimethyl-4-(ethylthio)-imidazo[1,5-d]-as-triazine
The procedure of Example 29 is repeated substituting equimolecular amounts of 6,8-dimethyl-imidazo[1,5-d]-as-triazine-4(3H)-thione and ethyl iodide for the imidazo[1,5-d]-as-triazine-4(3H)-thione and methyl iodide employed in that example. There is thus obtained the title compound in equally good yield.

reactant | 6,8-dimethyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC1=NC(=C2N1C(NN=C2)=S)C | C7H8N4S
reactant | ethyl iodide | C(C)I | C2H5I
reactant | imidazo[1,5-d]-as-triazine-4(3H)-thione | C=1C=2N(C(NN1)=S)C=NC2 | C5H4N4S
reactant | methyl iodide | CI | CH3I
product | 6,8-Dimethyl-4-(ethylthio)-imidazo[1,5-d]-as-triazine | CC1=NC(=C2N1C(=NN=C2)SCC)C | C9H12N4S
